US08669249B2
4-((2H-Indazol-2-yl)methyl)-2-nitrophenol (344A)
In a 100 mL round-bottomed flask was added 4-(chloromethyl)-2-nitrophenol (1.0 g, 5.33 mmol), 1H-indazole (0.630 g, 5.33 mmol), and potassium carbonate (0.884 g, 6.40 mmol) in DMF (26.7 mL). The mixture was stirred at 23° C. for 18 h. The reaction was diluted with water (100 mL) and the resulting solid was isolated by filtration, washed with water, and dried in vacuo. The crude solid was purified via ISCO flash chromatography (0-75% EtOAc in hexanes; 40 g column) to give the title compound as a yellow solid (341 mg, 24% yield): 1H NMR (DMSO-d6, 400 MHz): δ=8.50 (d, J=1.0 Hz, 1H), 7.82 (d, J=2.0 Hz, 1H), 7.68-7.72 (m, 1H), 7.56-7.61 (m, 1H), 7.48 (dd, J=8.6, 2.3 Hz, 1H), 7.10 (dd, J=8.5, 7.2 Hz, 2H), 7.00-7.06 (m, 1H), 5.62 ppm (s, 2H). ESI-MS: m/z 270.2 (M+H)+.

reactant | 4-(chloromethyl)-2-nitrophenol | 5.33 mmol, 1.0 g | ClCC1=CC(=C(C=C1)O)[N+](=O)[O-] | C7H6ClNO3
reactant | 1H-indazole | 5.33 mmol, 0.630 g | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | potassium carbonate | 6.40 mmol, 0.884 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 26.7 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-((2H-Indazol-2-yl)methyl)-2-nitrophenol | 341 mg, 24% yield | N=1N(C=C2C=CC=CC12)CC1=CC(=C(C=C1)O)[N+](=O)[O-] | C14H11N3O3
